US07087626B2
4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-7-(tetrahydro-furan-2-ylmethoxy)-quinoline
A mixture of methanesulfonic acid tetrahydro-furan-2-ylmethyl ester (0.70 g, 3.66 mmol), 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol (400 mg, 1.22 mmol), and cesium carbonate (2.38 g, 7.32 mmol) in N,N-dimethylformamide (2.5 mL) is heated at 60° C. for 42 h. The mixture is concentrated in vacuo and the residue chromatographed to yield the title compound, 79 mg (15%), as a tan solid.

reactant | methanesulfonic acid tetrahydro-furan-2-ylmethyl ester | 3.66 mmol, 0.70 g | O1C(CCC1)COS(=O)(=O)C | C6H12O4S
reactant | 4-(2-pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-quinolin-7-ol | 1.22 mmol, 400 mg | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)O | C20H16N4O
reactant | cesium carbonate | 7.32 mmol, 2.38 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | N,N-dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 4-(2-Pyridin-2-yl-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl)-7-(tetrahydro-furan-2-ylmethoxy)-quinoline | N1=C(C=CC=C1)C=1C(=C2N(N1)CCC2)C2=CC=NC1=CC(=CC=C21)OCC2OCCC2 | C25H24N4O2
